US06110934
4-Amino-2,3-dihydro-2-methyl-1H-isoindole
A solution of 3-nitro-N-methylphthalimide (0.58 g, 2.8 mmol) in dry tetrahydrofuran (10 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (0.64 g, 16.8 mmol) under argon. The mixture was stirred at room temperature for 2h and then heated under gentle reflux for 2.5h. The reaction was quenched by addition of wet diethyl ether followed by a minimum amount of water. The precipithated aluminium salts were removed by filtration. The filtrate was concentrated in vacuo to give the title compound as a brown oil (400 mg) which was used directly in the next stage (Example 31).

reactant | 3-nitro-N-methylphthalimide | 2.8 mmol, 0.58 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C)=CC=C1 | C9H6N2O4
reactant | lithium aluminium hydride | 16.8 mmol, 0.64 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Amino-2,3-dihydro-2-methyl-1H-isoindole | 400 mg | NC1=C2CN(CC2=CC=C1)C | C9H12N2
